US09062032B2
A mixture of 675 mg of methyl 5-[{3-[(3-{[6-(1-tert-butoxy-2-methyl-1-oxopropan-2-yl)pyridin-3-yl]carbamoyl}-4,5,6,7-tetrahydro-1-benzothiophen-2-yl)carbamoyl]benzyl}(pentan-3-yl)amino]-2,2-dimethyl-5-oxopentanoate, 10 mL of methylene chloride, and 1.3 mL of TFA was stirred 15 hours at room temperature. The reaction mixture was concentrated under reduced pressure, and a saturated aqueous sodium hydrogen carbonate solution was added to the residue, followed by extraction by using ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (10% methanol/chloroform), thereby obtaining 550 mg of 2-{5-[({2-[(3-{[(5-methoxy-4,4-dimethyl-5-oxopentanoyl)(pentan-3-yl)amino]methyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]pyridin-2-yl}-2-methylpropanoic acid.

reactant | methyl 5-[{3-[(3-{[6-(1-tert-butoxy-2-methyl-1-oxopropan-2-yl)pyridin-3-yl]carbamoyl}-4,5,6,7-tetrahydro-1-benzothiophen-2-yl)carbamoyl]benzyl}(pentan-3-yl)amino]-2,2-dimethyl-5-oxopentanoate | 675 mg | C(C)(C)(C)OC(C(C)(C)C1=CC=C(C=N1)NC(=O)C1=C(SC2=C1CCCC2)NC(=O)C=2C=C(CN(C(CCC(C(=O)OC)(C)C)=O)C(CC)CC)C=CC2)=O | C43H58N4O7S
reactant | TFA | 1.3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-{5-[({2-[(3-{[(5-methoxy-4,4-dimethyl-5-oxopentanoyl)(pentan-3-yl)amino]methyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]pyridin-2-yl}-2-methylpropanoic acid | 550 mg | COC(C(CCC(=O)N(C(CC)CC)CC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC=2C=CC(=NC2)C(C(=O)O)(C)C)CCCC3)C=CC1)(C)C)=O | C39H50N4O7S
